US05055458
A solution of 2-[bis(t-butoxycarbonyl)amino]-9-[1-(t-butyldimethylsilyloxy)-4-(diethoxyphosphorylmethoxy)but-2-oxy]-6-methoxypurine (415 mg, 0.57 mmol) was dissolved in ethanol (5 ml) and 5M hydrochloric acid (0.6 ml) and heated under reflux for 3.5 h. The reaction was evaporated in vacuo and the residue chromatographed on silica, eluting with chloroform-methanol 10:1, affording 9-[4-(diethoxyphosphorylmethoxy)-1-hydroxybut-2-oxy]guanine (110 mg, 48%) as a pale tan solid. νmax (KBr) 3400, 1680, 1640 and 1600 cm-1 ; δH [(CD3)2SO] 1.22 (6H, t, J7.1 Hz, 2×CH2CH3), 1.91 (2H, m, CHCH2CH2O), 3.54 (2H, m, CH2OH), 3.74 (2H, m, CH2OCH2P), 3.85 (2H, d, J8.2 Hz, CH2P), 4.03 (4H, m, 2×CH2CH3), 4.30 (1H, m, HOCH2CH), 5.01 (1H, m, D2O exchangeable OH), 6.65 (2H, br.s, D2O exchangeable, NH2); m/z (FAB+ve Ion), 428 (MNa+), 406 (MH+).

reactant | 2-[bis(t-butoxycarbonyl)amino]-9-[1-(t-butyldimethylsilyloxy)-4-(diethoxyphosphorylmethoxy)but-2-oxy]-6-methoxypurine | 0.57 mmol, 415 mg | C(C)(C)(C)OC(=O)N(C1=NC(=C2N=CN(C2=N1)OC(CO[Si](C)(C)C(C)(C)C)CCOCP(=O)(OCC)OCC)OC)C(=O)OC(C)(C)C | C31H56N5O11PSi
reactant | hydrochloric acid | 5M, 0.6 ml | Cl | ClH
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 9-[4-(diethoxyphosphorylmethoxy)-1-hydroxybut-2-oxy]guanine | 110 mg, 48% | C(C)OP(=O)(OCC)COCCC(CO)ON1C=2N=C(NC(C2N=C1)=O)N | C14H24N5O7P
